US07465726B2
4-[4-(3-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
A mixture of 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (50.1 mg, 0.150 mmol) and 3-methyl-1H-indazol-5-ylamine (25.0 mg, 0.170 mmol) in iPrOH (2.5 mL) in a sealed tube was heated to 90° C. (bath temp.) for 16 h. The solvent was evaporated, water/NaHCO3 solution was added, the mixture was extracted with CH2Cl2 (3×30 mL), and the combined extracts were washed with brine and dried over MgSO4. The extracts were filtered through a pad of silica gel, washing with 5% MeOH in CH2Cl2 until no more product eluted as indicated by TLC. Concentration in vacuo gave a light brown solid. The solid was triturated with MeOH, filtered, washed with more MeOH, and dried in vacuo overnight. One obtained the title compound as white solid, mp. 245-250° C. (decomp.). 1H NMR (DMSO-d6, 400 MHz): δ=1.43 (s, 9H), 2.42-2.50 (brs, 2H), 2.47 (s, 3H), 3.53-3.59 (me, 2H), 3.99-4.08 (m, 2H), 6.38 (brs, 1H), 6.73 (brs, 1H), 7.43 (d, J=8.8 Hz, 1H), 7.69 (dd, J=1.6, 8.8 Hz, 1H), 8.15 (s, 1H), 8.23 (s, 1H), 9.32 (s, 1H), 11.88 (brs, 1H), 12.54 (s, 1H). MS (ES+): m/z 446.0 (100) [MH+]. HPLC: tR=2.4 min (ZQ2000, polar—5 min).

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 0.150 mmol, 50.1 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2Cl)N1 | C16H19ClN4O2
reactant | 3-methyl-1H-indazol-5-ylamine | 0.170 mmol, 25.0 mg | CC1=NNC2=CC=C(C=C12)N | C8H9N3
solvent | iPrOH | 2.5 mL | CC(C)O | C3H8O
product | 4-[4-(3-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C(=NNC3=CC2)C)N1 | C24H27N7O2
